US07728131B2
3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoyl chloride hydrochloride
This compound was prepared in the same manner as in Reference Example 1 (step 7), except that 3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoic acid obtained in the step 4 was used, and that treatment after the reaction was that thionyl chloride was distilled off under reduced pressure, and then the operation of adding of toluene to the residue, followed by azeotropic removal of thionyl chloride was repeated twice.

reactant | 3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoic acid | ClC=1C=C(C(=O)O)C=C(C1CN1C[C@H](CC1)N(C)C)Cl | C14H18Cl2N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoyl chloride hydrochloride | Cl.ClC=1C=C(C(=O)Cl)C=C(C1CN1C[C@H](CC1)N(C)C)Cl | InChI=1S/C14H17Cl3N2O.ClH/c1-18(2)10-3-4-19(7-10)8-11-12(15)5-9(14(17)20)6-13(11)16;/h5-6,10H,3-4,7-8H2,1-2H3;1H/t10-;/m0./s1
